US06784192B2
N1,N1-Di(2-propynyl)-3-[1-[(2-methoxy-3-pyridyl)methyl]-2-piperidyl]propanamide
500 mg of ethyl 3-[1-[(2-methoxy-3-pyridyl)methyl]-2-piperidyl]propanoate, 2 ml of a 2N aqueous sodium hydroxide and 2 ml of methanol were stirred at 60° C. for 2 hours. After cooling to room temperature, 4 ml of a 1N aqueous hydrochloric acid was added thereto and the solvent was evaporated. Ethanol was added to the residue, the insoluble matters were filtered off and the solvent was evaporated. The resulting oil (500 mg), 170 mg of dipropargylamine, 450 mg of WSC and 240 mg of HOBt were dissolved in DMF, followed by stirring under room temperature for 3 hours. Water was added thereto, and the mixture was extracted with ethyl acetate. The extract was dried over sodium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1to 1:1, subsequently ethyl acetate), to give 300 mg of an oil.

reactant | ethyl 3-[1-[(2-methoxy-3-pyridyl)methyl]-2-piperidyl]propanoate | 500 mg | COC1=NC=CC=C1CN1C(CCCC1)CCC(=O)OCC | C17H26N2O3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N1,N1-Di(2-propynyl)-3-[1-[(2-methoxy-3-pyridyl)methyl]-2-piperidyl]propanamide | 300 mg | C(C#C)N(C(CCC1N(CCCC1)CC=1C(=NC=CC1)OC)=O)CC#C | C21H27N3O2
